US07235547B2
3-[3-(6-Cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Compound K7)
Compound K7 was obtained from 3-(6-cyclopropyl-pyridin-3-yl)-benzonitrile [prepared by the following procedure: A mixture of 3-cyanophenylboronic acid [CAS-No. 150255-96-2] (8.82 g, 60 mmol), crude 5-bromo-2-cyclopropylpyridine {prepared by the following procedure: A mixture of 2,5-dibromopyridine (11.85 g, 50 mmol), cyclopropyl zinc chloride (0.4 M in THF, 160 mL, 64 mmol), Pd(PPh3)4 (578 mg, 1 mol %) in THF (55 mL) was stirred under Argon atmosphere at 70° C. for 1.5 h. Cooled to RT, poured into sat. NaHCO3-solution, extracted with ether, washed with brine, dried over Na2SO4. Removal of the solvent in vacuum left a brown oil (12.36 g).} (ca. 60 mmol), Pd(PPh3)4 (1.733 g, 3 mol %) and K2CO3 (13.82 g, 100 mmol) in toluene (250 mL), EtOH (22 mL) and H2O (50 mL) was stirred at 80° C. for 14 h. Cooled to RT, diluted with EtOAc, washed with sat. NaHCO3-solution and brine, dried over Na2SO4. Removal of the solvent in vacuum left a brown solid, which was purified by silica gel column chromatography with cyclohexane/-EtOAc.] (9.88 g, 44.87 mmol) by treatment with tert-butyl bromoacetate and activated zinc, followed by hydrolysis with 10% HCl according to general procedure K (method d).

reactant | 3-cyanophenylboronic acid | 60 mmol, 8.82 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 5-bromo-2-cyclopropylpyridine | BrC=1C=CC(=NC1)C1CC1 | C8H8BrN
reactant | 2,5-dibromopyridine | 50 mmol, 11.85 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | cyclopropyl zinc chloride | 64 mmol, 0.4 M, 160 mL | [Cl-].C1(CC1)[Zn+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | K2CO3 | 100 mmol, 13.82 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 22 mL | CCO | C2H6O
solvent | H2O | 50 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 578 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 1.733 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[3-(6-Cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C1CC1)=O | C21H23NO3
